### PR TITLE
[Merged by Bors] - feat: port Algebra.Algebra.Operations

### PR DESCRIPTION
**Pull request by eric-wieser**
This had some trouble with leanprover/lean4#2074 and leanprover/lean4#1926.
There are also quite a few places where extra unfolding is needed in initializers for new-style structures.

---

- [x] depends on: leanprover-community/mathlib#18539
- [x] depends on: #2518

[Open in Gitpod](https://gitpod.io/from-referrer/)

Note that this includes a second forward-port; so when diffing, choose the first merge commit as the base.

### CODE REVIEW

**Comment by semorrison** [comment]
This PR/issue depends on:
* leanprover-community/mathlib#18539
By **[Dependent Issues](https://github.com/z0al/dependent-issues)** (🤖). Happy coding!

File: Mathlib/Algebra/Algebra/Operations.lean [hunk 1]
```diff
@@ -0,0 +1,750 @@
+/-
+Copyright (c) 2019 Kenny Lau. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Kenny Lau
+
+! This file was ported from Lean 3 source module algebra.algebra.operations
+! leanprover-community/mathlib commit 2bbc7e3884ba234309d2a43b19144105a753292e TODO: update
```
Comment (eric-wieser) [inline Mathlib/Algebra/Algebra/Operations.lean:7]: Will report when mathport next runs

File: Mathlib/Algebra/Algebra/Operations.lean [hunk 2]
```diff
@@ -0,0 +1,750 @@
...
+open Pointwise
+
+-- TODO: lean4#2074
+set_option synthInstance.etaExperiment true in
+/-- `Submodule.pointwiseNeg` distributes over multiplication.
+
+This is available as an instance in the `pointwise` locale. -/
+protected def hasDistribPointwiseNeg {A} [Ring A] [Algebra R A] : HasDistribNeg (Submodule R A) :=
+  toAddSubmonoid_injective.hasDistribNeg _ neg_toAddSubmonoid mul_toAddSubmonoid
+#align submodule.has_distrib_pointwise_neg Submodule.hasDistribPointwiseNeg
```
Comment (eric-wieser) [inline Mathlib/Algebra/Algebra/Operations.lean:338]: I don't know if there's a better workaround here

File: Mathlib/Algebra/Algebra/Operations.lean [hunk 3]
```diff
@@ -0,0 +1,750 @@
...
+  induction' n with n n_ih generalizing x
+  · rw [pow_zero] at hx
+    obtain ⟨r, rfl⟩ := hx
+    exact hr r
+  revert hx
+  -- porting note: workaround for lean4#1926, was `simp_rw [pow_succ']`
+  have h_lean4_1926_aux : x ∈ M ^ Nat.succ n ↔ x ∈ M ^ n * M := by rw [pow_succ']
+  suffices h_lean4_1926 : ∀ (hx' : x ∈ M ^ n * M), C (Nat.succ n) x (h_lean4_1926_aux.mpr hx') from
+    fun hx => h_lean4_1926 (h_lean4_1926_aux.mp hx)
+  -- porting note: end workaround
```
Comment (eric-wieser) [inline Mathlib/Algebra/Algebra/Operations.lean:479]: leanprover/lean4#1926. This workaround fails with a really strange message; is there something wrong with the hygiene of `suffices`?

**Comment by semorrison** [comment]
This PR/issue depends on:
* ~~leanprover-community/mathlib#18539~~
* ~~leanprover-community/mathlib4#2518~~
By **[Dependent Issues](https://github.com/z0al/dependent-issues)** (🤖). Happy coding!

File: Mathlib/Algebra/Algebra/Operations.lean (hunk 2 above)
Comment (jcommelin) [reply Mathlib/Algebra/Algebra/Operations.lean]: Fixed, for now

File: Mathlib/Algebra/Algebra/Operations.lean (hunk 3 above)
Comment (jcommelin) [reply Mathlib/Algebra/Algebra/Operations.lean]: Fixed for now. Although it would be good to understand what went wrong.

File: Mathlib/Algebra/Algebra/Operations.lean [hunk 4]
```diff
@@ -216,13 +220,13 @@ theorem bot_mul : ⊥ * M = ⊥ :=
   map₂_bot_left _ _
 #align submodule.bot_mul Submodule.bot_mul
 
-@[simp]
+@[simp, nolint simpNF] -- Porting note: simp can't prove this
 protected theorem one_mul : (1 : Submodule R A) * M = M := by
```
Comment (eric-wieser) [inline Mathlib/Algebra/Algebra/Operations.lean:224]: @jcommelin: can you explain this change to me? Surely simp can prove this via `_root_.one_mul`?

**Review by jcommelin — COMMENTED** [review]
bors d+

File: Mathlib/Algebra/Algebra/Operations.lean [hunk 5]
```diff
@@ -0,0 +1,763 @@
...
+protected theorem one_mul : (1 : Submodule R A) * M = M := by
+  conv_lhs => rw [one_eq_span, ← span_eq M]
+  erw [span_mul_span, one_mul, span_eq]
+#align submodule.one_mul Submodule.one_mul
+
+@[simp, nolint simpNF] -- Porting note: simp can't prove this
+protected theorem mul_one : M * 1 = M := by
+  conv_lhs => rw [one_eq_span, ← span_eq M]
+  erw [span_mul_span, mul_one, span_eq]
+#align submodule.mul_one Submodule.mul_one
```
[the remark this answers is not in the document]
Comment (jcommelin) [reply Mathlib/Algebra/Algebra/Operations.lean:233]:
```suggestion
-- Porting note: simp can prove this once we have a monoid structure
protected theorem one_mul : (1 : Submodule R A) * M = M := by
  conv_lhs => rw [one_eq_span, ← span_eq M]
  erw [span_mul_span, one_mul, span_eq]
#align submodule.one_mul Submodule.one_mul

-- Porting note: simp can prove this once we have a monoid structure
protected theorem mul_one : M * 1 = M := by
  conv_lhs => rw [one_eq_span, ← span_eq M]
  erw [span_mul_span, mul_one, span_eq]
#align submodule.mul_one Submodule.mul_one
```

File: Mathlib.lean [hunk 6]
```diff
@@ -4,6 +4,7 @@ import Mathlib.Algebra.Algebra.Basic
 import Mathlib.Algebra.Algebra.Bilinear
 import Mathlib.Algebra.Algebra.Equiv
 import Mathlib.Algebra.Algebra.Hom
+import Mathlib.Algebra.Algebra.Operators
```
Comment (jcommelin) [inline Mathlib.lean:7]:
```suggestion
import Mathlib.Algebra.Algebra.Operations
```

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
